* AD820A  SPICE Macro-model             2/95, Rev. A
*                                       ARG / ADSC
*
* This version of the AD820 model simulates the worst-case
* parameters of the 'A' grade. The worst-case parameters
* used correspond to those in the data sheet.
*
* Copyright 1995 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with 
* the terms and provisions in the License Statement.
*
* Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD820A   1   2   99  50  25
*
* INPUT STAGE & POLE AT 5MHZ
*
R3 5 99 2456
R4 6 99 2456
CIN 1 2 5E-12
C2 5 6 6.48E-12
I1 4 50 108E-6
IOS 1 2 1E-11
EOS 7 1 POLY(1) (12,98) 800E-6 2.41
J1 5 2 4 JX
J2 6 7 4 JX
GB1 50 2 POLY(3) (2,4) (2,5) (2,50) 0 1E-12 1E-12 1E-12
GB2 50 7 POLY(3) (7,4) (7,5) (7,50) 0 1E-12 1E-12 1E-12
*
EREF 98 0 30 0 1
*
* GAIN STAGE & POLE AT 25 HZ
*
R5 9 98 1.234E6
C3 9 25 32E-12
G1 98 9 6 5 4.07E-4
V1 8 98 0
V2 98 10 -1
D1 9 10 DX
D2 8 9 DX
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 5 KHZ
*
R21 11 12 1E6
R22 12 98 200
C14 11 12 32.25E-12
E13 11 98 POLY(2) (2,98) (1,98) 0 0.5 0.5
*
* POLE AT 10 MHZ
*
R23 18 98 1E6
C15 18 98 15.9E-15
G15 98 18 9 98 1E-6
*
* OUTPUT STAGE
*
ES 26 51 POLY(1) (18,98) 1.72 1
RS 26 22 500
V3 23 51 1.03951
V4 21 23 1.36
C16 20 25 2E-12
C17 24 25 2E-12
RG1 20 97 1E8
RG2 24 97 1E8
Q1 20 20 97 PNP
Q2 20 21 22 NPN
Q3 24 23 22 PNP
Q4 24 24 51 NPN
Q5 25 20 97 PNP 20
Q6 25 24 51 NPN 20
VP 96 97 0
VN 51 52 0
EP 96 0 POLY(1) (99,0) 0.01 1
EN 52 0 POLY(1) (50,0) -0.015 1
R25 30 99 275E3
R26 30 50 275E3
FSY1 99 0 POLY(1) VP 210.5E-6 1
FSY2 0 50 POLY(1) VN 210.5E-6 1
*
* MODELS USED
*
.MODEL JX NJF(BETA=7.67E-4 VTO=-2.000 IS=12.5E-12)
.MODEL NPN NPN(BF=120 VAF=150 VAR=15 RB=2E3 RE=4 RC=200)
.MODEL PNP PNP(BF=120 VAF=150 VAR=15 RB=2E3 RE=4 RC=900)
.MODEL DX D(IS=1E-15)
.ENDS AD820A
